Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Stabbing
 
Major Surgical or Invasive Procedure:
___:
1. Exploratory laparotomy.
2. Ligation of the abdominal wall bleeding.
3. Repair of gastric perforation.

 
History of Present Illness:
Mr. ___ is a ___ year old male who suffered 3 stab wounds to 
his chest and abdomen during a fight. A chest tube was placed at 
the scene. He had no loss of consciousness. He was transferred 
to ___ for further care.
 
Past Medical History:
none
 
Family History:
NC
 
Physical Exam:
On discharge:
AVSS
GEN: NAD
CV: RRR, no m/r/g
RESP: CTAB. L chest tube incision c/d/i.
ABD: wound c/d/i with staples in place. belly soft with 
incisional tenderness. +BS.
EXT: no c/c/e
 
Pertinent Results:
___ 03:15AM BLOOD WBC-14.3* RBC-4.20* Hgb-13.0* Hct-37.3* 
MCV-89 MCH-30.9 MCHC-34.9 RDW-12.6 Plt ___
___ 06:30AM BLOOD WBC-4.9 RBC-3.48* Hgb-10.5* Hct-31.0* 
MCV-89 MCH-30.1 MCHC-33.8 RDW-13.1 Plt ___
___ 03:15AM BLOOD ___ PTT-30.9 ___
___ 03:15AM BLOOD ___ 06:00AM BLOOD Glucose-100 UreaN-11 Creat-0.7 Na-135 
K-4.0 Cl-98 HCO3-27 AnGap-14
___ 06:30AM BLOOD Glucose-91 UreaN-18 Creat-0.7 Na-135 
K-4.3 Cl-99 HCO3-27 AnGap-13
___ 06:00AM BLOOD Calcium-8.9 Phos-4.7* Mg-1.9
___ 06:30AM BLOOD Calcium-8.7 Phos-4.8* Mg-2.1
___ 03:15AM BLOOD ASA-NEG Ethanol-42* Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

CXR ___:
IMPRESSION: 
1. Small left apical pneumothorax, with a chest tube in place. 
2. No focal lung consolidation. 
3. Soft tissue emphysema at the left lateral mid chest wall. 

CXR ___:
Removal of chest tube. Persistant fluid level in left lung base. 
Small left apical ptx.
 
Brief Hospital Course:
Mr. ___ was brought to ___ for trauma 
evaluation. A chest tube was in place on the left side upon 
arrival. He was resuscitated per ACLS protocol in the trauma bay 
and determined to have hypotension, a positive fast exam and a 
rigid abdomen. After receiving antibiotics and tetanus, he was 
taken emergently to the operating room for a laparotomy. See 
operative report for full details. After a brief stay in the 
PACU, he was transferred to the floor.

Neuro: The patient received a dilaudid PCA with good effect and 
adequate pain control. When tolerating oral intake, the patient 
was transitioned to oral pain medications. He continued to have 
difficulty mobilizing due to pain and toradol was added to his 
pain regimen briefly.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. He was placed 
on telemetry postoperatively and this was discontinued on POD2.

Pulmonary: The patient arrived with a left sided chest tube in 
place. Output was routinely monitored and CXR was obtained daily 
to monitor for pneumothorax. He remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. On ___, his chest tube 
was removed. Repeat CXR showed no reaccumulation of his 
pneumothorax.

GI/GU/FEN: Post-operatively, the patient was made NPO with IV 
fluids. Diet was advanced when appropriate, which was well 
tolerated. Patient's intake and output were closely monitored, 
and IV fluid was adjusted when necessary. Electrolytes were 
routinely followed, and repleted when necessary. Foley was 
removed on POD2. The patient failed to void x2, foley was 
replaced, and he was given flomax. Another voiding trial was 
attempted on POD3 which was successful. The patient was 
subsequently able to void spontaneously.

ID: The patient's white blood count and fever curves were 
closely watched for signs of infection. He received 
perioperative doses of cefazolin, flagyl and fluconazole.

Hematology: The patient's complete blood count was examined 
routinely; no transfusions were required.

Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay; was encouraged to get 
up and ambulate as early as possible. He also received protonix 
for ulcer prophylaxis.

The patient worked with physical therapy during his stay to 
improve his strength and mobility. At the time of discharge, he 
was afebrile with stable vital signs, tolerating a regular diet, 
voiding spontaneously, walking without assistance, and with his 
pain well controled.
 
Medications on Admission:
none
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
2. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
3. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p stabbing
gastric perforation
pneumothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain is not improved with pain medications. Call or return 
immediately if your pain is getting worse or changes location or 
moving to your chest or back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:

*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.

*Avoid swimming and baths until your follow-up appointment.

*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.

*If you have staples, they will be removed at your follow-up 
appointment.

*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.
 
Followup Instructions:
___